US05804588
3-Methoxyquinoline-5-carbonyl chloride, hydrochloride
A suspension of 8-methoxyquinoline-5-carboxylic acid (1.5 g) in dichloromethane (12 ml) was cooled to 0° C. and treated with oxalyl chloride (1.3 ml) followed by DMF (8 drops). The reaction was allowed to warm to room temperature and stirred overnight. The solvent was removed in vacuo and the residue azeotroped with toluene (2×10 ml) to yield the desired product (1.61 g) as an off-white powder.

reactant | 8-methoxyquinoline-5-carboxylic acid | 1.5 g | COC1=CC=C(C=2C=CC=NC12)C(=O)O | C11H9NO3
reactant | oxalyl chloride | 1.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 12 ml | ClCCl | CH2Cl2
catalyst | DMF | 8 drops | CN(C)C=O | C3H7NO
product | 3-Methoxyquinoline-5-carbonyl chloride, hydrochloride | 1.61 g | Cl.COC=1C=NC=2C=CC=C(C2C1)C(=O)Cl | InChI=1S/C11H8ClNO2.ClH/c1-15-7-5-9-8(11(12)14)3-2-4-10(9)13-6-7;/h2-6H,1H3;1H
